US09145441B2
Compound 108c: (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-pyrazol-1-yl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
To (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-3-pyrazol-1-yl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (450 mg, 0.75 mmol) in anhydrous dichloromethane (1 mL) at 0° C. and under an atmosphere of nitrogen was added trifluoroacetic acid (0.58 mL, 7.6 mmol). The reaction mixture was warmed to room temperature and stirred for 3 h before concentrating in vacuo and co-evaporating from toluene. This residue was dissolved in anhydrous acetonitrile (7.5 mL) and at 0° C. and under an atmosphere of nitrogen was added (E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid (246 mg, 0.75 mmol), N,N-diisopropylethylamine (0.66 mL, 3.76 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (401 mg, 1.05 mmol). The solution was warmed to room temperature and stirred for 2 h. The reaction was cooled to 0° C., diluted with ethyl acetate and quenched with 1 M hydrochloric acid. The organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate (2×) and brine (1×). The organic layer was then dried through a hydrophobic frit and concentrated in vacuo. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 1:1 then 0:1 to give the title compound (433 mg, 72%) as a viscous clear oil, as a 2:1 mixture of diastereoisomers. LCMS (m/z)=806.3 [M+H], Tr=2.91 min.

reactant | (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-3-pyrazol-1-yl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.75 mmol, 450 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CN1N=CC=C1)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C23H35Cl3N6O6
reactant | trifluoroacetic acid | 7.6 mmol, 0.58 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid | 0.75 mmol, 246 mg | C(C)(=O)O[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O)(C)C | C19H21NO4
reactant | N,N-diisopropylethylamine | 3.76 mmol, 0.66 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 1.05 mmol, 401 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-pyrazol-1-yl-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 433 mg, 72% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CN1N=CC=C1)NC([C@H](C(C)C)NC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O)(C)C)=O)=O)=O)(Cl)Cl | C37H46Cl3N7O7
